US06329370B1
1-Furan-2-ylmethyl-6-methoxy-4-phenyl-phthalazine (Compound 77)
A solution under N2 of ZnCl2 in THF 0.5M (18.35 ml, 9.18 mmoles) was dropwise added under stirring at 0° C. with 2M phenyl lithium (4.37 ml, 8.74 mmoles). The mixture was left at room temperature for 1 hour, then sequentially added with 4-chloro-1-furan-2-ylmethyl-6-methoxy-phthalazine (1.2 g, 4.37 mmoles), prepared as described in example 127, palladium acetate (49 mg, 0.218 mmole) and triphenylphosphine (114.4 mg, 4.36 mmoles). The mixture was refluxed for 45 minutes, then diluted with ethyl acetate and washed with water. The organic phase was anhydrified over Na2SO4 and dried. The residue was flash chromatographed (eluent: petrolatum/ethyl acetate 1:1). The resultant oil was crystallised from ethyl ether (15 ml) to give 480 mg of the title compound (yield: 34%). m.p.: 128-129° C.

reactant | THF | 9.18 mmoles, 0.5M, 18.35 ml | C1CCOC1 | C4H8O
reactant | phenyl lithium | 8.74 mmoles, 2M, 4.37 ml | C1(=CC=CC=C1)[Li]
reactant | 4-chloro-1-furan-2-ylmethyl-6-methoxy-phthalazine | 4.37 mmoles, 1.2 g | ClC1=NN=C(C2=CC=C(C=C12)OC)CC=1OC=CC1 | C14H11ClN2O2
reactant | triphenylphosphine | 4.36 mmoles, 114.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
catalyst | palladium acetate | 0.218 mmole, 49 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-Furan-2-ylmethyl-6-methoxy-4-phenyl-phthalazine | 480 mg, yield: 34% | O1C(=CC=C1)CC1=NN=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1 | C20H16N2O2
